US08048902B2
Step 2: 2-(4′-{4-[(R)-1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-2-methyl-propionic acid ethyl ester
Prepared as described in Example 36, Step 6 using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester and 2-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
reactant | 2-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(C)(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C18H27BO4
product | 2-(4′-{4-[(R)-1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=C(C=CC=C1)Cl)=O | C31H31ClN2O5
